US05576437
To a solution of di-2-pyridyl thionocarbonate (1.22 g) and 4-dimethylaminopyridine (0.08 g) in methylene chloride (60 mL) is added dropwise a solution of 7-amino-5-cyano-8-methylquinoline (1.22 g) in methylene chloride (80 mL). The mixture is stirred for 4 hours at room temperature then rotary evaporated. The residue is purified by flash chromatography on silica gel, eluting with 25% ethyl acetate/hexane to afford 5-cyano-8-methyl-7-quinolinylisothiocyanate as a yellow solid.

reactant | di-2-pyridyl thionocarbonate | 1.22 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
reactant | 7-amino-5-cyano-8-methylquinoline | 1.22 g | NC1=CC(=C2C=CC=NC2=C1C)C#N | C11H9N3
catalyst | 4-dimethylaminopyridine | 0.08 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 5-cyano-8-methyl-7-quinolinylisothiocyanate | C(#N)C1=C2C=CC=NC2=C(C(=C1)N=C=S)C | C12H7N3S
